US04031130
60 g of sodium hydride were suspended in 450 cc of dimethyl carbonate and 100 cc of hexamethyl phosphoric acid triamide. 100 g of pinacolone (92%) were added slowly at 45° C and on completion of the addition, the reaction mixture was processed as described in 3 above. The yield was 83.5% of pivaloyl acetic acid methyl ester.

reactant | sodium hydride | 60 g | [H-].[Na+]
reactant | pinacolone | 100 g | CC(C(C)(C)C)=O | C6H12O
reactant | dimethyl carbonate | 450 cc | C(OC)(OC)=O | C3H6O3
solvent | hexamethyl phosphoric acid triamide | 100 cc | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | pivaloyl acetic acid methyl ester | yield was 83.5% | COC(CC(C(C)(C)C)=O)=O | C8H14O3
